US08629157B2
Synthesis of (S)-1-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-pyrrolidine-2-carboxylic acid (4-tert-butyl-thiazol-2-yl)-amide
To a vial containing (S)-pyrrolidine-2-carboxylic acid (4-tert-butyl-thiazol-2-yl)-amide; hydrochloride (0.212 g; 0.731 mmol) in dimethylsulfoxide (2 mL) is added N,N-diisopropylethylamine (0.127 mL; 0.731 mmol) and 3-chloro-2-fluoro-5-trifluoromethylpyridine (0.096 mL; 0.731 mmol). The mixture is heated at 100° C. for 1 hour in an oil bath and then cooled to room temperature. The crude mixture is filtered and purified by preparative HPLC chromatography. Product fractions are pooled and concentrated in vacuo to afford title compound. ESI m/z 433 [M+H]+

reactant | (S)-pyrrolidine-2-carboxylic acid (4-tert-butyl-thiazol-2-yl)-amide | C(C)(C)(C)C=1N=C(SC1)NC(=O)[C@H]1NCCC1 | C12H19N3OS
reactant | hydrochloride | 0.731 mmol, 0.212 g | Cl | ClH
reactant | N,N-diisopropylethylamine | 0.731 mmol, 0.127 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloro-2-fluoro-5-trifluoromethylpyridine | 0.731 mmol, 0.096 mL | ClC=1C(=NC=C(C1)C(F)(F)F)F | C6H2ClF4N
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | (S)-1-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-pyrrolidine-2-carboxylic acid (4-tert-butyl-thiazol-2-yl)-amide | C(C)(C)(C)C=1N=C(SC1)NC(=O)[C@H]1N(CCC1)C1=NC=C(C=C1Cl)C(F)(F)F | C18H20ClF3N4OS
